### PR TITLE
[Merged by Bors] - chore: golf proofs which use autogenerated lemmas

### PR DESCRIPTION
**Pull request by felixpernegger**
This removes all exceptions of the linter except in CategoryTheory/Functor/Category.lean (which I do not understand)

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Calculus/FormalMultilinearSeries.lean [hunk 1]
```diff
@@ -398,7 +397,7 @@ lemma constFormalMultilinearSeries_zero [NontriviallyNormedField 𝕜] [NormedAd
     constFormalMultilinearSeries]
   induction n
   · simp only [ContinuousMultilinearMap.uncurry0_apply]
-  · simp only [constFormalMultilinearSeries.match_1.eq_2, ContinuousMultilinearMap.zero_apply]
```
Comment (grunweg) [inline Mathlib/Analysis/Calculus/FormalMultilinearSeries.lean:401]: Does `simp` work? If not perceptibly slower, I'd also fix this at the same time.

File: Mathlib/Data/List/Sigma.lean [hunk 2]
```diff
@@ -647,17 +645,20 @@ theorem dlookup_dedupKeys (a : α) (l : List (Sigma β)) : dlookup a (dedupKeys
     · rw [dedupKeys_cons, dlookup_kinsert_ne h, l_ih, dlookup_cons_ne]
       exact h
 
-set_option linter.auxLemma false in
+omit [DecidableEq α] in
+theorem sizeOf_cons_le_sizeOf_cons [SizeOf α] {l r : List α} (a : α)
```
Comment (grunweg) [inline Mathlib/Data/List/Sigma.lean]: Can or should this be a `gcongr` lemma?

File: Mathlib/Data/List/Sigma.lean [hunk 3]
```diff
@@ -647,17 +645,20 @@ theorem dlookup_dedupKeys (a : α) (l : List (Sigma β)) : dlookup a (dedupKeys
...
   induction xs with
   | nil => simp [dedupKeys]
-  | cons x xs =>
-    simp only [dedupKeys_cons, kinsert_def, Nat.add_le_add_iff_left, Sigma.eta]
-    trans
-    · apply sizeOf_kerase
-    · assumption
+  | cons x xs h =>
+    simp only [dedupKeys_cons, kinsert_def, Sigma.eta]
+    exact sizeOf_cons_le_sizeOf_cons x (le_trans (sizeOf_kerase x.fst xs.dedupKeys) h)
```
Comment (grunweg) [inline Mathlib/Data/List/Sigma.lean:659]: Does this work?
```suggestion
    exact sizeOf_cons_le_sizeOf_cons x ((sizeOf_kerase x.fst xs.dedupKeys).trans h)
```
Or (with the `gcongr` attribute above),
```
    gcongr; exact (sizeOf_kerase x.fst xs.dedupKeys).trans h
```
?

File: Mathlib/Data/List/Sigma.lean [hunk 4]
```diff
@@ -647,17 +645,20 @@ theorem dlookup_dedupKeys (a : α) (l : List (Sigma β)) : dlookup a (dedupKeys
     · rw [dedupKeys_cons, dlookup_kinsert_ne h, l_ih, dlookup_cons_ne]
       exact h
 
-set_option linter.auxLemma false in
+omit [DecidableEq α] in
```
Comment (grunweg) [inline Mathlib/Data/List/Sigma.lean]: `omit` tickles my "code smell" instinct. Is there a way to re-organise the variables, or to move this lemma further up? (That might be a better location anyway.)

**Review by grunweg — COMMENTED** [review]
Thanks for doing this! A couple of minor comments, all about improving the state of affairs further.

File: Mathlib/Data/List/Sigma.lean (hunk 3 above)
Comment (chenson2018) [inline Mathlib/Data/List/Sigma.lean:659]: Note that instead of adding the above lemma you could write:

```suggestion
  | cons x xs h =>
     have := sizeOf_kerase x.fst xs.dedupKeys
     simp [dedupKeys_cons]
     lia
```
or

```suggestion
  | cons x xs h ih => simpa [dedupKeys_cons] using le_trans (sizeOf_kerase x.fst xs.dedupKeys) ih
```
if you prefer to avoid `lia` for whatever reason.

File: Mathlib/Data/List/Sigma.lean (hunk 2 above)
Comment (chenson2018) [reply Mathlib/Data/List/Sigma.lean]: Note that the two `sizeof_*` theorems in this module are not used anywhere else in Mathlib.

File: Mathlib/Data/List/Sigma.lean (hunk 3 above)
Comment (grunweg) [reply Mathlib/Data/List/Sigma.lean:659]: To me, the above lemma also looks useful. (But I'm not an expert on this file either.)

File: Mathlib/Data/List/Sigma.lean (hunk 2 above)
Comment (felixpernegger) [reply Mathlib/Data/List/Sigma.lean]: > Can or should this be a `gcongr` lemma?

nope

File: Mathlib/Data/List/Sigma.lean (hunk 3 above)
Comment (felixpernegger) [reply Mathlib/Data/List/Sigma.lean:659]: no and no

File: Mathlib/Data/List/Sigma.lean (hunk 4 above)
Comment (felixpernegger) [reply Mathlib/Data/List/Sigma.lean]: There isnt really anything with List and sizeOf in mathlib (all is in Init), so I'm not sure there really is a better place?

I wrote it as `theorem sizeOf_cons_le_sizeOf_cons {α : Type*} ...` now

File: Mathlib/Data/List/Sigma.lean (hunk 3 above)
Comment (felixpernegger) [reply Mathlib/Data/List/Sigma.lean:659]: I also think its somewhat useful (and we could probably have some similar lemmas, i.e. with `List.append`?), but if your suggestions is preferable im happy to change of course

**Comment by felixpernegger** [comment]
-awaiting-author

File: Mathlib/Data/List/Sigma.lean (hunk 3 above)
Comment (chenson2018) [reply Mathlib/Data/List/Sigma.lean:659]: I don't have a strong preference.

(I am more questioning the usage of this size theorem in general, but this is out of scope for the PR.)

**Comment by grunweg** [comment]
!bench

**Comment by leanprover-radar** [comment]
[Benchmark results](https://radar.lean-lang.org/repos/mathlib4/commits/0d09d8093cfeba2d429e6761d7913689a281e8ee?reference=94fba23a1390006d2c960739fec79a580e947d85) for 0d09d8093cfeba2d429e6761d7913689a281e8ee against 94fba23a1390006d2c960739fec79a580e947d85 are in. No significant results found. @chenson2018 @grunweg

- 🟥 `build//instructions`: **+27.6G** (**+0.02%**)

No significant changes detected.

**Comment by grunweg** [comment]
LGTM, assuming benchmarking turns out fine.

**Comment by grunweg** [comment]
Does look like a significant slow-down in these files.
bors merge
